US07179912B2
4-Amino-2-morpholin-4-yl-pyrimidine-5-carboxylic acid
A mixture of 4-amino-5-carboxy-2-ethylmercaptopyrimidine (0.35 g, 1.8 mmol) and morpholine (0.5 mL, 10 mmol) was warmed at 80° C. for 4 d and concentrated in vacuo. The residue was purified by flash chromatography (silica gel, 4×7.5 cm, eluted with 97.25/2.5/0.25 acetonitrile/water/acetic acid) to yield the product as a white solid (34 mg, 30%).

reactant | 4-amino-5-carboxy-2-ethylmercaptopyrimidine | 1.8 mmol, 0.35 g | NC1=NC(=NC=C1C(=O)O)SCC | C7H9N3O2S
reactant | morpholine | 10 mmol, 0.5 mL | N1CCOCC1 | C4H9NO
product | 4-Amino-2-morpholin-4-yl-pyrimidine-5-carboxylic acid | 34 mg, 30% | NC1=NC(=NC=C1C(=O)O)N1CCOCC1 | C9H12N4O3
